US08293735B2
Toluene-4-sulfonic acid 2-[6-fluoro-1-(toluene-4-sulfonyl)-1H-indol-4-yl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl ester
To a suspension of [2-(6-fluoro-1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl]-methanol (0.54 g, 1.41 mmol) in anhydrous THF (20 mL) and DMF (5 mL) was added sodium hydride (60% suspension in mineral oil, 0.34 g, 8.5 mmol). The resulting mixture was stirred at RT for 10 min, then p-toluenesulfonyl chloride (1.08 g, 5.66 mmol) was added and the reaction mixture was heated at 40° C. for 3 h. The resulting solution was partitioned between EtOAc and a saturated aqueous solution of ammonium chloride. The organic layer was isolated, dried (MgSO4) and concentrated in vacuo. The resultant residue was purified by column chromatography to give the title compound as a white solid (0.60 g, 62%).

reactant | [2-(6-fluoro-1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl]-methanol | 1.41 mmol, 0.54 g | FC1=CC(=C2C=CNC2=C1)C=1N=C(C2=C(N1)C=C(S2)CO)N2CCOCC2 | C19H17FN4O2S
reactant | sodium hydride | 8.5 mmol, 0.34 g | [H-].[Na+]
reactant | p-toluenesulfonyl chloride | 5.66 mmol, 1.08 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Toluene-4-sulfonic acid 2-[6-fluoro-1-(toluene-4-sulfonyl)-1H-indol-4-yl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl ester | 0.60 g, 62% | FC1=CC(=C2C=CN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=1N=C(C2=C(N1)C=C(S2)COS(=O)(=O)C2=CC=C(C=C2)C)N2CCOCC2 | C33H29FN4O6S3
